US05620999
4-(3-Fluoro-4-methoxyphenyl)-5-[4-(methylthio)phenyl]-2-(trifluoromethyl)-1H-imidazole 516 mg, 1.35 mmol) from step 4 was dissolved in methanol (10 mL) and cooled to 0° C. OXONE® (2.46 g, 4 mmol) in water (10 mL) was added. After the addition, the ice bath was removed and the reaction was stirred at ambient temperature for 3 hours. The mixture was extracted with chloroform (3×50 mL). The combined organic phases were dried (MgSO4) and concentrated in vacuo. The residue was purified by chromatography, affording 4-(3-fluoro-4-methoxyphenyl)-5-[4-(methylsulfonyl)phenyl]-2-(trifluoromethyl)-1H-imidazole as a solid (98 mg): m.p. 228°-234° C. (DSC, 10° C./min.). The structure assignment was supported by NMR. Mass spectrum (EI, m/e): 414. Anal. Calc'd. for C18H14N2F4O3S: C, 52.17; H, 3.41; N, 6.76. Found: C, 52.30; H, 3.62; N, 6.53.

reactant | 4-(3-Fluoro-4-methoxyphenyl)-5-[4-(methylthio)phenyl]-2-(trifluoromethyl)-1H-imidazole | 1.35 mmol, 516 mg | FC=1C=C(C=CC1OC)C=1N=C(NC1C1=CC=C(C=C1)SC)C(F)(F)F | C18H14F4N2OS
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 4-(3-fluoro-4-methoxyphenyl)-5-[4-(methylsulfonyl)phenyl]-2-(trifluoromethyl)-1H-imidazole | 98 mg | FC=1C=C(C=CC1OC)C=1N=C(NC1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C18H14F4N2O3S
